* D:\GitHub Repositories\GaN-Studies\Buck Converter\SynchBuck - 3 as Interleaved.asc
XU1 GateTop DCbus SWnode 0 N006 GS66508T_L3V2
XU2 GateTop DCbus SWnode 0 N007 GS66508T_L3V2
XU3 GateTop2 DCbus SWnode2 0 N008 GS66508T_L3V2
XU4 GateTop2 DCbus SWnode2 0 N009 GS66508T_L3V2
XU5 GateBot SWnode 0 0 N011 GS66508T_L3V2
XU6 GateBot SWnode 0 0 N012 GS66508T_L3V2
XU7 GateBot2 SWnode2 0 0 N013 GS66508T_L3V2
XU8 GateBot2 SWnode2 0 0 N014 GS66508T_L3V2
L1 SWnode2 Vo {Lfilt} Rser=0.0099
C1 Vo 0 {Cfilt} V={Vout} Rser=2e-2 Lser=5e-9
R1 Vo 0 {Rload}
V2 N006 0 {Tj}
V3 N007 0 {Tj}
V4 N008 0 {Tj}
V5 N009 0 {Tj}
V6 N011 0 {Tj}
V7 N012 0 {Tj}
V8 N014 0 {Tj}
V9 N013 0 {Tj}
R2 GateTop N001 {Ron}
R3 N002 N001 {Roff}
D1 GateTop N002 D
R4 GateBot N003 {Ron}
R5 N004 N003 {Roff}
D2 GateBot N004 D
V11 DCbus 0 {Vin}
V1 N001 SWnode PULSE({Voff} {Von} {DeadTime} 2e-9 2e-9 {D/fsw} {1/fsw})
V10 N003 0 PULSE({Voff} {Von} {2*DeadTime+D/fsw} 2e-9 2e-9 {(1-D)/fsw-2*DeadTime} {1/fsw})
L2 SWnode Vo {Lfilt} Rser=0.0099
R6 GateTop2 N005 {Ron}
R7 N010 N005 {Roff}
D3 GateTop2 N010 D
R8 GateBot2 N015 {Ron}
R9 N016 N015 {Roff}
D4 GateBot2 N016 D
V12 N005 SWnode2 PULSE({Voff} {Von} {DeadTime + phase} 2e-9 2e-9 {D/fsw} {1/fsw})
V13 N015 0 PULSE({Voff} {Von} {2*DeadTime+D/fsw + phase} 2e-9 2e-9 {(1-D)/fsw-2*DeadTime} {1/fsw})
.model D D
.lib C:\Users\Furkan\Documents\LTspiceXVII\lib\cmp\standard.dio
.param Rload = Vout / Iout;
.param Ron=20 Roff=2;
.param Iout=20 Vin=540 Vout=400;
.param D = Vout / Vin;
.param fsw = 500k
.param K = 2;
.param Lfilt = 6.8e-6
.param Cfilt=1.1e-6;
.params Von = 6 Voff = -3;
.param DeadTime = 100e-9;
.tran 0 0.9e-3 0.0e-3
.param Tj = 150
.ic V(Vo) = {Vout}
.param phase = 180/360 * 1/fsw
* .param Lfilt = 1/K * (1- Vout/Vin)*Vout/Iout*1/fsw
* 7443640680B
K1 L1 L2 0
* .ic I(L1) = {Iout}
* .ic I(L2) = {Iout}
.lib GaN_LTspice_GS66508T_L3V2.lib
.backanno
.end
