* D:\GitHub Repositories\GaN-Studies\Protection Circuits\ParasiticProtection - ECCE.asc
V1 N001 0 270
R2 N011 N007 10
L2 N007 N010 2e-9
V3 N010 Vgnd PULSE(-3 6 100e-9 1e-9 1e-9 500e-9 20000e-9)
Lparasitic Vcp N015 0.84nH Rser=0
D2 N013 N007 D
R5 N011 N013 2
L4 N001 N002 200e-9
R8 N015 0 1.7e-3
C3 Vcp Vcn 200e-12
V4 Vpos Vgnd 5
V5 Vneg Vgnd -5
R3 N005 N006 10k
R6 N006 N004 10k
R7 N004 Vgnd 10k
R10 N005 N004 2.43k
R11 Vamp N005 20k
R9 Vcn 0 2.21k
XU1 N011 N003 Vcp Vgnd N008 JunctionTop GS66508B_L3V2
V2 N008 0 25
XU2 Vamp N014 Vpos Vgnd Vgnd Vcomp NC_01 Vgnd LT1713
V6 N014 Vgnd 1.2
S1 Vgnd N007 N012 Vgnd MYSW
C1 N012 Vgnd 100p
D1 Vcomp N012 D
R4 Vamp Vgnd 1k
L1 N002 N003 20e-9
C4 N002 0 1µ IC = 270
XU5 Vcn N004 Vpos Vneg N006 LT1813
XU3 Vcp N005 Vpos Vneg Vamp LT1813
.model D D
.lib C:\Users\Furkan\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1e-6
.option temp=25
;ac dec 5 1 5000e6
* For 155.5 x 155.5 mil trace (Source Pin Dimension)\n2 oz/ft^2 thickness\n \n25C - 0.243 mohm\n50C - 0.267 mohm\n75C - 0.29 mohm\n100C - 0.314 mohm\n125C - 0.338 mohm\n150C - 0.361 mohm\nL = 1.108404 nH
.param Rntc=10k*exp(B*(1/(temp + 273.5 )+1/(273.5+25)))
.param B = 3380
.model MYSW SW(Ron=1m Roff=1Meg Vt=.5 Vh=-.4)
.lib GaN_LTspice_GS66508B_L3V2.lib
.lib LTC.lib
.lib LTC1.lib
.backanno
.end
