* D:\GitHub Repositories\GaN-Studies\Protection Circuits\SC Parallel Simulation.asc
R1 N003 N002 20
R2 N011 N010 20
R3 N003 N007 12.5
D1 N007 N006 D
D2 N014 N010 D
R4 N011 N014 2
R5 N005 N004 20
R6 N005 N008 12.5
D3 N008 P001 D
R7 N013 N012 20
R8 N013 N015 2
D4 N015 N012 D
L3 NGDL N016 0.86nH
C1 N001 N016 {Cbypass} V={Vin} Rser={Resr} Lser={Lesl} Rpar={Rparallel}
L9 N001 N009 2e-6
L10 0 N016 2e-6
V1 N009 0 {Vin}
L11 Vinduced 0 20nH
C2 Vfiltout 0 1nF
V4 Tj1 0 {Tj}
V5 Tj2 0 {Tj}
V6 Tj3 0 {Tj}
V7 Tj4 0 {Tj}
L1 NGDH NGDL 4.7e-6
R10 ProbePos N017 9Meg
C3 ProbePos N017 9.5pF
C4 ProbeNeg ProbePos 16pF
R11 ProbePos ProbeNeg 1Meg
C5 ProbeNeg ProbePos 16pF
L2 0 ProbeNeg 1e-12
XU1 N003 N001 NGDH 0 Tj1 GaN_LTspice_GS66508T_L3V4P1
XU2 N005 N001 NGDH 0 Tj2 GaN_LTspice_GS66508T_L3V4P1
XU3 N013 NGDH NGDL 0 Tj4 GaN_LTspice_GS66508T_L3V4P1
XU4 N011 NGDH NGDL 0 Tj3 GaN_LTspice_GS66508T_L3V4P1
V8 PGDH NGDH PWL file=pulse_sc_high.txt
V9 PGDL NGDL PWL file=pulse_sc_low.txt
L4 N002 PGDH 4e-9
L5 N004 PGDH 4e-9
L6 N010 PGDL 2e-9
L7 N012 PGDL 2e-9
V10 threshold 0 0.56
L8 N006 PGDH 4e-9
L12 P001 PGDH 4e-9
L14 0 N018 0.55µH
R9 N018 0 120
C6 N018 0 0.38pF
R12 0 N018 0.022
R13 Vinduced Vfiltout 18
D5 0 Vfiltout D
D6 Vfiltout N019 D
V2 N019 0 5
L13 N017 Vfiltout 1pH
.model D D
.lib C:\Users\Furkan\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 2u 0
.option ITL1 = 500
.option ITL2 = 500
.option ITL4 = 500
.option RELTOL = 0.001
.option ABSTOL=1E-9
.option CHGTOL=1E-12
.option VNTOL=1E-6
.option GMIN=1E-15
.option TRTOL=1
.option noopiter
.option gminsteps=0
.option topologycheck=0
.param Vin=400
.param ISW=20
.param DT=1U
.param T_ON=10U
.param L_DPT=Vin*(T_ON-2*DT)/ISW
.param T_P = 21U
.param L_Load=3n
.param Lesl=0.7e-9 Resr=0.0134 Rparallel=2.27e9
K1 L3 L11 0.0352
* Solver
* GateDriver
* Operation
* Parasitics
* Simulation
.param Cbypass 220e-9
.param Tj=25
.option Temp= 125
.params Von = 6 Voff = -3;
.param DeadTime = 100e-9;
K2 L3 L4 0.0593
K5 L3 L5 0.0593
K3 L3 L8 0.0593
K4 L3 L12 0.0593
* Use PWL texts for DPT and SC\nFor DPT\npulse_charge\npulse_freewheel\nFor SCT\npulse_sc_low\npulse_sc_high
.lib GaN_LTspice_GS66508T_L3V4P1.lib
.backanno
.end
